US07524951B2
2-Formylaminomethylthiazole (200 g) was added to a solution of 4.5 kg of sodium dihydrogenphosphate dihydrate in 6 L of water, and the mixture was stirred at 30° C. Sodium bromide (4.0 kg) and 2 L of tetrahydrofuran were added thereto in that order. Bromine (1.49 kg) was added while adjusting the solution to pH 3 by the addition of a 6 N aqueous sodium hydroxide solution, and the mixture was stirred for 2 hr. The reaction mixture was added to a solution of 500 g of sodium sulfite in 4 L of water to stop the reaction and was then adjusted to pH 4.9 by the addition of a 6 N aqueous sodium hydroxide solution while maintaining the temperature of the mixture at 30° C. The reaction mixture was extracted with 10 L of ethyl acetate and then with 5 L of ethyl acetate. The organic layers were combined and were dried over anhydrous magnesium sulfate. The solvent was removed to bring the volume to 1 L, and the concentrate was stirred at 6° C. for 12 hr for crystallization to give 104.4 g of 5-bromo-2-formylaminomethylthiazole. The results of NMR analysis were in agreement with the results of analysis in Example 3.

reactant | 2-Formylaminomethylthiazole | 200 g | C(=O)NCC=1SC=CN1 | C5H6N2OS
reactant | sodium dihydrogenphosphate dihydrate | 4.5 kg | O.O.P(=O)(O)(O)[O-].[Na+]
reactant | Sodium bromide | 4.0 kg | [Br-].[Na+]
reactant | Bromine | 1.49 kg | BrBr | Br2
reactant | sodium hydroxide | 6 N | [OH-].[Na+]
reactant | sodium sulfite | 500 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium hydroxide | 6 N | [OH-].[Na+]
solvent | water | 6 L | O | H2O
solvent | water | 4 L | O | H2O
solvent | tetrahydrofuran | 2 L | O1CCCC1 | C4H8O
product | 5-bromo-2-formylaminomethylthiazole | 104.4 g | BrC1=CN=C(S1)CNC=O | C5H5BrN2OS
